US04518801
When the reaction was carried out under otherwise the same conditions but without addition of ammonia there was formed methionine in a yield of 64.5% besides a yield of 21% of methionine dimer (N-methionyl-methionine).

reactant | ammonia | N | H3N
reactant | N-methionyl-methionine | N[C@@H](CCSC)C(=O)N[C@@H](CCSC)C(=O)O | C10H20N2O3S2
product | methionine | yield of 21% | N[C@@H](CCSC)C(=O)O | C5H11NO2S
